US04032527
A mixture of 2-(2-ethoxy-4-(diethylamino)benzoyl)-benzoic acid (6.82 g.), N,N,N',N'-tetramethyl-m-phenylenediamine (2.80 g.) and acetic anhydride (20 g.) was heated (70°-75° C.) during one hour, let stand overnight and poured into dilute hydrochloric acid. The resulting mixture was basified. Recrystallization of the resulting red precipitate from hexane followed by slurrying in alkaline water afforded 3-(2,4-bis(dimethylamino)phenyl)-3-(2-ethoxy-4 -(diethylamino)phenyl)phthalide (I: X= (CH3)2N, Y2 = CH3CH2O, Y4 = (CH3CH2)2N, Z4 = Z5 = Z6 = Z7 = H) (m.p. 146°-150° C.).

reactant | 2-(2-ethoxy-4-(diethylamino)benzoyl)-benzoic acid | 6.82 g | C(C)OC1=C(C(=O)C2=C(C(=O)O)C=CC=C2)C=CC(=C1)N(CC)CC | C20H23NO4
reactant | N,N,N',N'-tetramethyl-m-phenylenediamine | 2.80 g | CN(C1=CC(=CC=C1)N(C)C)C | C10H16N2
reactant | acetic anhydride | 20 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | hydrochloric acid | Cl | ClH
product | 3-(2,4-bis(dimethylamino)phenyl)-3-(2-ethoxy-4 -(diethylamino)phenyl)phthalide | CN(C1=C(C=CC(=C1)N(C)C)C1(OC(=O)C2=CC=CC=C12)C1=C(C=C(C=C1)N(CC)CC)OCC)C | C30H37N3O3
